US08071581B2
Step 4: (3-Bromo-5-fluoro-quinolin-6-yl)-acetic acid methyl ester
To a solution of (5-fluoro-quinolin-6-yl)-acetic acid methyl ester (2.0 g, 9 mmol) in CCl4 (20 ml) and pyridine (1.48 ml, 18 mmol) was added bromine (0.9 ml, 18 mmol) dropwise at 5° C. The solution was heated to reflux for 20 minutes. After cooling, the reaction was quenched by sat. aq. NaHCO3 and the mixture extracted with dichloromethane and concentrated. The residue was purified by flash column chromatography to return the title compound (1.8 g, 66%). 1H-NMR (CDCl3, 300 MHz): 8.9 (d, 1H), 8.5 (d, 1H), 7.8 (d, 1H), 7.6 (m, 1H), 3.9 (d, 2H), 3.7 (s, 3H).

reactant | (5-fluoro-quinolin-6-yl)-acetic acid methyl ester | 9 mmol, 2.0 g | COC(CC=1C(=C2C=CC=NC2=CC1)F)=O | C12H10FNO2
reactant | pyridine | 18 mmol, 1.48 ml | N1=CC=CC=C1 | C5H5N
reactant | bromine | 18 mmol, 0.9 ml | BrBr | Br2
solvent | CCl4 | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | (3-Bromo-5-fluoro-quinolin-6-yl)-acetic acid methyl ester | COC(CC=1C(=C2C=C(C=NC2=CC1)Br)F)=O | C12H9BrFNO2
